US07429609B2
5-Chloro-4-hydroxymethylthiophene-2-carbonitrile
To a solution of 25.0 g (5-bromo-2-chlorothiophen-3-yl)methanol in 330 mL of dimethylformamide, 25.8 g of zinc cyanide (I) and 12.7 g tetrakis(triphenylphosphine)palladium(0) were added at room temperature, and stirred at 100° C. for 4 hours. Diluting with ethyl acetate, the organic layer was washed successively with saturated aqueous ammonium chloride and saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated. The crude product was purified and separated by silica gel column chromatography (ethyl acetate:n-hexane=1:10-1:5), to afford 16.0 g of the title compound as colorless crystals.

reactant | (5-bromo-2-chlorothiophen-3-yl)methanol | 25.0 g | BrC1=CC(=C(S1)Cl)CO | C5H4BrClOS
reactant | dimethylformamide | 330 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc cyanide | 25.8 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 12.7 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Chloro-4-hydroxymethylthiophene-2-carbonitrile | 16.0 g | ClC1=C(C=C(S1)C#N)CO | C6H4ClNOS
